US05180741
Stage D: (RS) 4-(2-propenyl)-2-indanol
5.50 g of product obtained above is agitated in 30 ml of anhydrous tetrahydrofuran, cooled to -65° C. and 15.7 ml of a 1.6M butyllithium solution in hexane is introduced over half an hour, followed by agitation for one and a half hours at -65° C. 2.21 g of dry cuprous chloride is added in one lot and the suspension obtained is left for half an hour at -65° C. The latter is added in small amounts and under inert atmosphere to a solution, cooled to -70° C., of 4.20 ml of bromoallyl in 21 ml of tetrahydrofuran and the mixture is left for one hour at -70° C., -65° C. The reaction mixture is poured into 200 ml of 2N hydrochloric acid containing ice and 100 ml of isopropyl ether, then agitated for one hour at ambient temperature. The insoluble part is filtered off, decanted, the organic phase is washed with water, and the aqueous phases are extracted with isopropyl ether. The reunited organic phases are dried, concentrated to dryness, and the residue is chromatographed on silica, eluting with a hexane-ethyl acetate mixture (8-2). 0.89 g of expected product is obtained, and 1.04 g of expected impure product is obtained, which is chromatographed again in the same conditions, and 0.75 g of expected product is recovered.

reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
reactant | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | (RS) 4-(2-propenyl)-2-indanol | 0.89 g | C(C=C)C1=C2CC(CC2=CC=C1)O | C12H14O
